US09085583B2
To a solution of 4-(difluoromethoxy)-2-methoxy-6-methylnicotinonitrile (550 mg, 2.58 mmol), di-tert-butyl dicarbonate (844 mg, 3.87 mmol), Triethylamine (391 mg, 3.87 mmol) and Raney Ni (2 g) in Tetrahydrofuran (10 mL) was stirred at room temperature overnight under H2. It was filtered and the filtrate was concentrated to afford tert-butyl((4-(difluoromethoxy)-2-methoxy-6-methylpyridin-3-yl)methyl)carbamate. (830 mg yellow solid, 100% yield).

reactant | 4-(difluoromethoxy)-2-methoxy-6-methylnicotinonitrile | 2.58 mmol, 550 mg | FC(OC1=CC(=NC(=C1C#N)OC)C)F | C9H8F2N2O2
reactant | di-tert-butyl dicarbonate | 3.87 mmol, 844 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Triethylamine | 3.87 mmol, 391 mg | C(C)N(CC)CC | C6H15N
solvent | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Ni | 2 g | [Ni] | Ni
product | tert-butyl((4-(difluoromethoxy)-2-methoxy-6-methylpyridin-3-yl)methyl)carbamate | 100% yield | C(C)(C)(C)OC(NCC=1C(=NC(=CC1OC(F)F)C)OC)=O | C14H20F2N2O4
